US04687767
1-Hydroxy-3-(4-imidazolyl)-propane-1,1-diphosphonic acid
3.53 g. (20 mMol) 3-(4-imidazolyl)-propionic acid hydrochloride are heated with 2.26 g. phosphorous acid in 10 ml. chlorobenzene to 110° C., while stirring. 4.12 g. (30 mMol) phosphorus trichloride are slowly added dropwise thereto and heating continued for 4 hours at 110° C. After cooling, the chlorobenzene is decanted off and the residue boiled under reflux for 5 hours with 15 ml. 6N hydrochloric aci. The reaction mixture is allowed to cool, mixed with active charcoal, filtered and the filtrate evaporated. The residue is taken up in 10 ml. water, the solution is adjusted with an aqueous solution of sodium bicarbonate to a pH value of 5.5 and mixed with methanol until no further precipitate is formed. The precipitate is filtered off with suction, washed with methanol and dried. There are obtained 3.23 g. (48% of theory) of the title compound. The product is obtained as the monosodium salt with 1 mole of water of crystallisation.

reactant | 3-(4-imidazolyl)-propionic acid hydrochloride | 20 mMol | Cl.N1C=NC(=C1)CCC(=O)O
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | 30 mMol | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Hydroxy-3-(4-imidazolyl)-propane-1,1-diphosphonic acid | OC(CCC=1N=CNC1)(P(O)(=O)O)P(O)(=O)O | C6H12N2O7P2
